US06897224B2
5-[4-(5-Fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylamino]-quinoline-2-carboxylic acid methylamide
Analogously to Example 38, 97 mg (0.197 mmol) of 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylamino]quinoline-2-carboxylic acid methylamide is reacted with 8.0 ml (8.0 mmol) of a 1 M boron tribromide solution. After working-up and purification on silica gel with hexane-ethyl acetate (0-70%), 18 mg (18% of theory) of the product is obtained.

reactant | 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylamino]quinoline-2-carboxylic acid methylamide | 0.197 mmol, 97 mg | CNC(=O)C1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O | C25H27F4N3O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
product | 5-[4-(5-Fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylamino]-quinoline-2-carboxylic acid methylamide | CNC(=O)C1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)O)(C(F)(F)F)O | C24H25F4N3O3
